US06451821B1
A solution of 12.5 g of (2R)-2-amino-5-[(benzyloxy)carbonyl]aminopentanoic acid hydrochloride in 200 cm3 of ethanol is cooled to a temperature in the region of −20° C. 6.5 cm3 of thionyl chloride are added dropwise and the mixture is then stirred at a temperature in the region of 20° C. for 18 hours. The reaction medium is concentrated under reduced pressure (1 kPa) at a temperature in the region of 40° C. to give 13 g of ethyl (2R)-2-amino-5-[(benzoyloxy)carbonyl]aminopentanoate hydrochloride [mass spectrum: DCI m/z=295 MH+].

reactant | (2R)-2-amino-5-[(benzyloxy)carbonyl]aminopentanoic acid hydrochloride | 12.5 g | Cl.N[C@@H](C(=O)O)CCCNC(=O)OCC1=CC=CC=C1
reactant | thionyl chloride | 6.5 cm3 | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | 200 cm3 | C(C)O | C2H6O
product | ethyl (2R)-2-amino-5-[(benzoyloxy)carbonyl]aminopentanoate hydrochloride | 13 g | Cl.N[C@@H](C(=O)OCC)CCCNC(=O)OC(C1=CC=CC=C1)=O | InChI=1S/C15H20N2O5.ClH/c1-2-21-14(19)12(16)9-6-10-17-15(20)22-13(18)11-7-4-3-5-8-11;/h3-5,7-8,12H,2,6,9-10,16H2,1H3,(H,17,20);1H/t12-;/m1./s1
